US06558937B1
To determine the influence of the temperature on the enzyme activity 25 μl enzyme solution was added to 225 μl of a solution containing 0.1% p-nitrophenyl-β-D-cellobioside and 25 mM gluconolactone in a 50 mM sodium acetic acid buffer at pH 5.0. Following an incubation of 15 minutes at 30, 40, 50, 60 or 70° C. the enzyme activity was stopped by adding 750 μl of a 0.5 M glycine buffer pH 9.0. The concentration of p-nitrophenol formed was determined spectrophotometrically at 400 nm.

reactant | p-nitrophenyl-β-D-cellobioside | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C18H25NO13
reactant | gluconolactone | 25 mM | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
reactant | sodium acetic acid | 50 mM | C(C)(=O)O.[Na]
reactant | glycine | 0.5 M, pH 9.0 | NCC(=O)O | C2H5NO2
product | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
